US03963701
2-[(p-Chloro-α-phenylbenzyl)imino]hexahydroazepine hydrochloride
A slurry of 12.0 g of 4-chlorobenzhydrylamine hydrochloride in 23 ml of O-methylcaprolactim was allowed to stand at room temperature for 3 days and was stirred occasionally with a glass rod. At first, the mixture became nearly homogeneous and then it began to solidify. Small amounts of anhydrous ethanol were added to keep the mixture in a stirrable slurry. The mixture was then cooled, the solid was collected and washed with ether and was recrystallyzed twice from methanol-acetone to give 11.7 g of the title compound, m.p. 238°-240°C. The identity of the compound was confirmed by micro-analysis, infrared and ultraviolet spectra.

reactant | 4-chlorobenzhydrylamine hydrochloride | 12.0 g | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1
reactant | ethanol | C(C)O | C2H6O
solvent | O-methylcaprolactim | 23 ml | COC=1CCCCCN1 | C7H13NO
product | 2-[(p-Chloro-α-phenylbenzyl)imino]hexahydroazepine hydrochloride | 11.7 g | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N=C2NCCCCC2)C=C1 | InChI=1S/C19H21ClN2.ClH/c20-17-12-10-16(11-13-17)19(15-7-3-1-4-8-15)22-18-9-5-2-6-14-21-18;/h1,3-4,7-8,10-13,19H,2,5-6,9,14H2,(H,21,22);1H
